US09028880B2
Pyren-1-ylmethyl 2-bromoacetate (Pyr-Br):
Pyrenemethanol (Pyr-OH) (109.6 mg, 0.47 mmol) in 1.0 mL DMF (anh) was treated with 180 μL TEA (anh, 1.29 mmol) and 2-bromoacetyl bromide (132.2 μL, 1.50 mmol) in 1 mL dichloromethane. The mixture was stirred at RT (˜23° C.) for 17 hours. After the solvent was evaporated, the crude product was purified by silica gel column (Hex/EtOAc=2/1) to give 167 mg final product as a yellow solid (yield 90%). 1H NMR (CDCl3, 500 MHz): δ 8.28-8.03 (m, 9H, ArH), 5.94 (s, 2H, ArCH2), 3.90 (s, 2H, CH2Br). ESI: 375, [M+Na]+.

reactant | Pyrenemethanol | 0.47 mmol, 109.6 mg | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CO | C17H12O
reactant | 2-bromoacetyl bromide | 1.50 mmol, 132.2 μL | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Pyren-1-ylmethyl 2-bromoacetate | 167 mg, yield 90% | BrCC(=O)OCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C19H13BrO2
